US05047411
A solution of sodium hydroxide (464 mg) in water (4.18 ml) was added to a solution of S-(5-dimethylaminomethylfuran-2-yl)methylisothiourea dihydrochloride (1.00 g) in methanol (10 ml) and the mixture was stirred for 1 hour at ambient temperature. A solution of 6-bromomethyl-2-(N-ethylformamido)benzoxazole (1.10 g) in a mixture of methanol (20 ml) and tetrahydrofuran (5 ml) was dropwise added thereto at 0° C. and the mixture was stirred for 2 hours at the same temperature. The solvent was evaporated in vacuo. The residue was mixed with water (20 ml) and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel by eluting with chloroform-methanol (20:1, V/V). The pure base was converted to the hydrochloride in a usual manner and recrystallized from a mixture of ethanol and diisopropyl ether to give 6-[(5-dimethylaminomethylfuran 2-yl)methylthiomethyl]-2-ethylaminobenzoxazole dihydrochloride (0.33 g).

reactant | sodium hydroxide | 464 mg | [OH-].[Na+]
reactant | S-(5-dimethylaminomethylfuran-2-yl)methylisothiourea dihydrochloride | 1.00 g | Cl.Cl.CN(C)CC1=CC=C(O1)CSC(N)=N
reactant | 6-bromomethyl-2-(N-ethylformamido)benzoxazole | 1.10 g | BrCC1=CC2=C(N=C(O2)N(C=O)CC)C=C1 | C11H11BrN2O2
solvent | water | 4.18 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-[(5-dimethylaminomethylfuran 2-yl)methylthiomethyl]-2-ethylaminobenzoxazole dihydrochloride | 0.33 g | Cl.Cl.CN(C)CC1=CC=C(O1)CSCC1=CC2=C(N=C(O2)NCC)C=C1 | InChI=1S/C18H23N3O2S.2ClH/c1-4-19-18-20-16-8-5-13(9-17(16)23-18)11-24-12-15-7-6-14(22-15)10-21(2)3;;/h5-9H,4,10-12H2,1-3H3,(H,19,20);2*1H
